US09376394B2
Preparation of 4-{5-[bis-(2-chloroethyl)amino]-1-methyl 1H-benzoimidazol-2-yl}-butyric acid isopropyl ester
4-{5-[Bis-(2-hydroxyethyl)amino]-1-methyl-1H-benzimidazol-2-yl}-butyric acid isopropyl ester (5 g) and dichloromethane (75 mL) are charged into a round bottom flask and cooled to 0-5° C. Thionyl chloride (4 mL, 4.0 M) is slowly added at the same temperature. The temperature is allowed to rise to 25-30° C. and the mixture is stirred for about 7 hours. Water (100 mL) is slowly added and the mixture is stirred for about 20 minutes, then the layers are separated. The dichloromethane layer is washed with saturated sodium bicarbonate solution (100 mL), dried over sodium sulfate, and is concentrated under vacuum at 30-33° C. to obtain 10-15 mL of a concentrated mass. n-Heptane (100 mL) is added to the concentrated mass slowly at 27° C., stirred for about 1 hour, filtered, and the collected solid is washed with n-heptane (15 mL) and dried under vacuum to give the title compound. Yield: 3.4 g (61%).

reactant | 4-{5-[Bis-(2-hydroxyethyl)amino]-1-methyl-1H-benzimidazol-2-yl}-butyric acid isopropyl ester | 5 g | C(C)(C)OC(CCCC1=NC2=C(N1C)C=CC(=C2)N(CCO)CCO)=O | C19H29N3O4
reactant | dichloromethane | 75 mL | ClCCl | CH2Cl2
reactant | Thionyl chloride | 4.0 M, 4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | Water | 100 mL | O | H2O
solvent | n-Heptane | 100 mL | CCCCCCC | C7H16
product | 4-{5-[bis-(2-chloroethyl)amino]-1-methyl 1H-benzoimidazol-2-yl}-butyric acid isopropyl ester | C(C)(C)OC(CCCC1=NC2=C(N1C)C=CC(=C2)N(CCCl)CCCl)=O | C19H27Cl2N3O2
